US08455477B2
3-bromo-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridin-4-ol (60.0 mg, 0.205 mmol), tert-butyl 3-(bromomethyl)piperidine-1-carboxylate (114 mg, 0.410 mmol), and NaH (29.5 mg, 0.737 mmol) were suspended in DMF (2 ml), then heated to 60° C. After 2 h, the reaction mixture was quenched with 1 ml of saturated aqueous ammonium chloride, diluted in ethyl acetate, washed with saturated aqueous sodium bicarbonate and brine. The combined aqueous layers were extracted with ethyl acetate (1×30 mL), and the combined organic layers were dried over sodium sulfate, filtered and concentrated. The residue was purified by column chromatography on silica gel (methanol/ethyl acetate gradient) afford a yellow oil. The residue was purified by preparative HPLC Reverse phase (C-18), eluting with Acetonitrile/Water+0.05% TFA. The fractions containing product were combined and diluted in ethyl acetate, then washed with aqueous sodium bicarbonate and dried over sodium sulfate, filtered and concentrated to afford tert-butyl 3-({[3-bromo-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridin-4-yl]oxy}methyl)piperidine-1-carboxylate.

reactant | 3-bromo-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridin-4-ol | 0.205 mmol, 60.0 mg | BrC=1C=NN2C1C(=CC(=C2)C=2C=NN(C2)C)O | C11H9BrN4O
reactant | tert-butyl 3-(bromomethyl)piperidine-1-carboxylate | 0.410 mmol, 114 mg | BrCC1CN(CCC1)C(=O)OC(C)(C)C | C11H20BrNO2
reactant | NaH | 0.737 mmol, 29.5 mg | [H-].[Na+]
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | tert-butyl 3-({[3-bromo-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridin-4-yl]oxy}methyl)piperidine-1-carboxylate | BrC=1C=NN2C1C(=CC(=C2)C=2C=NN(C2)C)OCC2CN(CCC2)C(=O)OC(C)(C)C | C22H28BrN5O3
